US08912208B2
B. 2-{4-[6-(3-Chloro-phenylamino)-pyridazin-3-yl]-benzoylamino}-3-methyl-butyric acid
To a solution of 4-[6-(3-Chloro-phenylamino)-pyridazin-3-yl]-benzoic acid (0.10 g, 0.31 mmol, 1.0 equiv) in 2 Ml DMF was added HATU (0.23 g, 0.62 mmol, 2.0 equiv) and N,N-diisopropylethylamine (0.27 Ml, 1.5 mmol, 5.0 equiv). Valine methyl ester (0.062 g, 0.37 mmol, 1.0 equiv) was added as a solid, and the homogeneous solution was allowed to stir at room temperature overnight. To the solution was then added 1 Ml 10% aqueous LiOH, and the mixture was then heated to 55° C. The reactions were then filtered and the purified by reverse-phase HPLC to afford the title compound: 1H NMR (400 MHz, MeOD) 0.96 (dd, J=9.35, 6.82 Hz, 6 H) 2.21 (dq, J=12.13, 6.82 Hz, 1 H) 4.41 (d, J=5.05 Hz, 1 H) 6.91 (ddd, J=1.26 Hz, 2.02, 1.01 Hz, 1 H) 7.21 (t, J=8.08 Hz, 1 H) 7.17 (d, J=9.35 Hz, 1 H) 7.48 (dd, J=9.22, 1.14 Hz, 1 H) 7.88-8.02 (m, 7 H); (M+H)+ 425.1.

reactant | 4-[6-(3-Chloro-phenylamino)-pyridazin-3-yl]-benzoic acid | 0.31 mmol, 0.10 g, 1.0 equiv | ClC=1C=C(C=CC1)NC1=CC=C(N=N1)C1=CC=C(C(=O)O)C=C1 | C17H12ClN3O2
reactant | HATU | 0.62 mmol, 0.23 g, 2.0 equiv | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 1.5 mmol, 5.0 equiv | C(C)(C)N(C(C)C)CC | C8H19N
reactant | Valine methyl ester | 0.37 mmol, 0.062 g, 1.0 equiv | COC([C@@H](N)C(C)C)=O | C6H13NO2
reactant | LiOH | [Li+].[OH-]
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-{4-[6-(3-Chloro-phenylamino)-pyridazin-3-yl]-benzoylamino}-3-methyl-butyric acid | ClC=1C=C(C=CC1)NC1=CC=C(N=N1)C1=CC=C(C(=O)NC(C(=O)O)C(C)C)C=C1 | C22H21ClN4O3
